US06313122B1
B. N1-(3-Aminobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-yl-methoxycarbonyl)-1,2-benzenediamine
A mixture of N1-(3-nitrobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl)-1,2-benzenediamine (370 mg, 0.78 mmol) and 5% palladium-on-carbon (200 mg) in ethanol (10 mL) was placed under an atmosphere of hydrogen (1 atm). After consumption of the starting material, the mixture was filtered through diatomaceous earth and the filtrate concentrated in vacuo. Recrystallization (methanol/diethyl ether) yielded 40 mg (12%) of the title compound.

reactant | N1-(3-nitrobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl)-1,2-benzenediamine | 0.78 mmol, 370 mg | [N+](=O)([O-])C=1C=C(C(=O)NC=2C(=CC=CC2)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=CC1 | C25H25N5O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium-on-carbon | 200 mg | [Pd] | Pd
product | N1-(3-Aminobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-yl-methoxycarbonyl)-1,2-benzenediamine | 40 mg, 12% | NC=1C=C(C(=O)NC=2C(=CC=CC2)NC(=O)OCC2CCN(CC2)C2=CC=NC=C2)C=CC1 | C25H27N5O3
